US04203988
B. 2-(2-Dimethylaminoethylamino)-6-dimethylaminomethylpyridine
2-Chloro-6-dimethylaminomethylpyridine (14 g., 0.0825 mole) and unsym-dimethylethylenediamine (21.8 g, 0.248 mole) in 10 ml of pyridine are heated at 180° for 8 hours in a bomb. The dark reaction mixture is stirred over 20 g of solid sodium hydroxide for 1 hour on a steam bath. Then the mixture is filtered. Distillation of the filtrate gives 6.5 g of product, b.p. 110°-11° at 0.1 mm, nD25 1.5287.

reactant | 2-Chloro-6-dimethylaminomethylpyridine | 0.0825 mole, 14 g | ClC1=NC(=CC=C1)CN(C)C | C8H11ClN2
reactant | unsym-dimethylethylenediamine | 0.248 mole, 21.8 g | CN(C)CCN | C4H12N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-Dimethylaminoethylamino)-6-dimethylaminomethylpyridine | 6.5 g | CN(CCNC1=NC(=CC=C1)CN(C)C)C | C12H22N4
